US08211908B2
To a solution of 0.25 g of (3,4-dihydro-2H-pyrano(2,3-c)pyridin-6-yl)methanol in 7.5 mL of chloroform, 0.66 g of manganese dioxide was added, and the mixture was heated under reflux while stirring for 4 hours 50 minutes. The reaction mixture was cooled to room temperature, the insoluble substance was then filtered off, and the solvent was distilled off under reduced pressure to obtain 0.24 g of 3,4-dihydro-2H-pyrano(2,3-c)pyridine-6-carbaldehyde as a light yellow oily substance.

reactant | (3,4-dihydro-2H-pyrano(2,3-c)pyridin-6-yl)methanol | 0.25 g | O1CCCC=2C1=CN=C(C2)CO | C9H11NO2
solvent | chloroform | 7.5 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 0.66 g | [O-2].[O-2].[Mn+4]
product | 3,4-dihydro-2H-pyrano(2,3-c)pyridine-6-carbaldehyde | 0.24 g | O1CCCC=2C1=CN=C(C2)C=O | C9H9NO2
